US05610293
B. Synthesis of 1,4,7,10,14-Pentaazacycloheptadecane
A mixture of 1,4,7,10,14-penta(p-toluenesulfonyl)-1,4,7,10,14-pentaazacycloheptadecane prepared as in Example 12 A (28.5 g, 0.0279 mole) and concentrated H2SO4 (100 ml) was heated at 100° C. with stirring under a dry argon atmosphere for 72 H. To the resulting brown solution, ethanol (100 ml) was added dropwise with stirring at 0° C. followed by ethyl ether (1 l). The tan solid was filtered and washed thoroughly with ethyl ether. The solid was then dissolved in H2O (100 ml) and the resulting solution filtered and washed with ethyl ether. The pH of the solution was adjusted to 11 with 10N NaOH and the solvent was removed in vacuo. The resulting brown oily solid was extracted with hot THF (2×500 ml) and the THF extracts were filtered. The filtrates were combined and the solvent was removed in vacuo. The oily residue was dissolved in hot hexane and the insoluble impurities were removed by filtration. The solvent was removed in vacuo and the residual oil was purified by vacuum distillation to give 2.68 g (39% yield) of the product as a light yellow oil: bp 140°-5° C. (0.10 mm Hg); 1H NMR (CDCl3) δ1.51 (br s, 5 H), 1.68 (quint, J=6.1 Hz, 4 H), 2.73 (m, 20 H); Exact mass (M+H)+: calcd., 244.2501; Found: 244.2555 (C12H30N5).

reactant | 1,4,7,10,14-penta(p-toluenesulfonyl)-1,4,7,10,14-pentaazacycloheptadecane | C1(=CC=C(C=C1)S(=O)(=O)N1CCN(CCN(CCN(CCCN(CCC1)S(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C)C | C47H59N5O10S5
reactant | H2SO4 | 100 ml | OS(=O)(=O)O | H2O4S
reactant | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethyl ether | 1 l | C(C)OCC | C4H10O
product | 1,4,7,10,14-Pentaazacycloheptadecane | 2.68 g, 39% yield | N1CCNCCNCCNCCCNCCC1 | C12H29N5
